Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PLASTIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right Wrist Infection
 
Major Surgical or Invasive Procedure:
___ - 
1. Debridement of skin, subcutaneous tissue and bone, 13 x 5 x 3 
cm.
2. Removal of the dorsal wrist arthrodesis plate.
3. Placement of antibiotic spacer.

 
History of Present Illness:
___ s/p right wrist surgeries x 3 at outside hospitals, presents 
to BI ED complaining of extruded screw and redness, pain, and 
purulent drainage from his dorsal incision.  He initially 
injured his right wrist in ___ breaking up a dog fight (works 
at a ___ daycare).  His first surgery was on ___ by a 
surgeon in ___, who "placed a pin" in his wrist to address a 
"ruptured tendon or ligament." (on further detailed questioning, 
it sounds like this surgery may have been done to address a 
scapholunate injury).  Patient continued to have pain after this 
surgery, so he sought a second opinion from Dr. ___ at ___, and underwent "parital fusion" on ___.  He 
was still having significant pain and limited function after 
this surgery, so Dr. ___ him to a total wrist 
fusion with a dorsal plate on ___.  Since this most recent 
surgery, patient states he has had continued pain and redness at 
the surgical site on his dorsal wrist.  He has also had frequent 
drainage from the wound, and he recently had a screw actually 
extrude through the skin.  He endorses vague numbness in no 
specific distribution in his hand and states it "hasn't felt 
right" since his first surgery in ___.  He has no other 
complaints today, denies fevers, chills, constitutional 
symptoms.

 
Past Medical History:
Depression
Right wrist surgery x 3 

 
Social History:
___
Family History:
NC
 
Physical Exam:
AT ADMISSION
Right upper extremity:
- Dorsal hand with diffuse erythema and swelling surrounding
surgical scar, area over proximal LF metacarpal with fresh scab
suggestive of recent opening, likely location of screw extrusion 

- Soft, non-tender arm and forearm
- Full, painless ROM at shoulder, elbow
- Fires EPL/FPL/DIO
- SILT axillary/radial/median/ulnar nerve distributions
- 2+ radial pulse, WWP
.
AT DISCHARGE
RUE:
- short arm cast in place, c/d/I
- mild diffuse swelling of the hand
- Fires EPL/FPL/DIO
- SILT axillary/radial/median/ulnar nerve distributions
- WWP
 
Pertinent Results:
___ 06:03AM   LACTATE-1.4
___ 05:30AM   CRP-64.6*
___ 05:30AM   WBC-3.9* RBC-4.34* HGB-12.3* HCT-36.2* MCV-83 
MCH-28.3 MCHC-34.0 RDW-13.0 RDWSD-39.2
___ 05:30AM   NEUTS-65.6 LYMPHS-11.9* MONOS-12.9 EOS-8.0* 
BASOS-1.3* IM ___ AbsNeut-2.54 AbsLymp-0.46* AbsMono-0.50 
AbsEos-0.31 AbsBaso-0.05
___ 05:30AM   PLT COUNT-246
.
MICROBIOLOGY:
___ 6:03 pm SWAB      RIGHT DORSAL WRIST. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Preliminary): 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ ___. 

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

   FUNGAL CULTURE (Preliminary): 
      NO FUNGUS ISOLATED. 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 
.
___ 6:03 pm ABSCESS      RIGHT DORSAL WRIST FLUID. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ ___. 

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      NO FUNGAL ELEMENTS SEEN. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 
.
___ 6:24 pm TISSUE      RIGHT DORSAL WRIST. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 
.
___ 6:30 pm TISSUE      MID CARPIS ARTHODESIS RIGHT. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Final ___: 
      Reported to and read back by ___ ___ ___ AT 
13:54. 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------   0.5 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------   0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 
.
___ 7:00 pm SWAB     Site: HAND      RIGHT HAND POST 
DEBRIDMENT. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    RARE GROWTH. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ ___. 

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

   FUNGAL CULTURE (Preliminary): 
      NO FUNGUS ISOLATED. 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 
.
___ 7:20 pm TISSUE      RIGHT HAND MID CARPIS. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Preliminary): 
      GRAM POSITIVE COCCUS(COCCI).    IN CLUSTERS.  GROWING IN 
BROTH ONLY. 

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on 
___ and had a R wrist 1. Debridement of skin, subcutaneous 
tissue and bone, 13 x 5 x 3 cm; 2. Removal of the dorsal wrist 
arthrodesis plate; 3. Placement of antibiotic spacer. The 
patient tolerated the procedure well.  
.
Neuro: Post-operatively, the patient had bupivacaine nerve 
catheters in place and oxycodone and Tylenol with good effect 
and adequate pain control. He was weaned off the nerve catheter 
and transitioned to solely oral pain control. 
.
CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored. 
.
Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored. 
.
GI/GU: Post-operatively, the patient was given IV fluids until 
tolerating oral intake. His diet was advanced when appropriate, 
which was tolerated well. He was also started on a bowel regimen 
to encourage bowel movement. Foley was removed on POD#2. Intake 
and output were closely monitored.  
. 
ID: The patient remained afebrile. He was initially put on 
vancomycin and ceftriaxone and ID was consulted. His OR cultures 
grew out coag+ Staph Aureus. A PICC line was placed ___ and he 
will be discharged on Nafcillin 2gm IV Q4H and f/u with ID.  The 
patient's temperature was closely watched for signs of 
infection.  
.
Prophylaxis: The patient was ambulatory and was encouraged to 
get up and ambulate as early as possible.  
.
At the time of discharge on ___, the patient was doing well, 
afebrile with stable vital signs, tolerating a regular diet, 
ambulating, voiding without assistance, and pain was well 
controlled. Right hand was casted.

 
Medications on Admission:
Celexa 
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H 
2. Docusate Sodium 100 mg PO BID 
3. Senna 17.2 mg PO BID 
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN moderate to 
severe pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*84 Tablet Refills:*0
5. TraZODone 100 mg PO QHS:PRN sleep 
6. Nafcillin 2 g IV Q4H 
RX *nafcillin in dextrose iso-osm 2 gram/100 mL 2 gms IV every 
four (4) hours Disp #*42 Intravenous Bag Refills:*5
7. Citalopram 40 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right wrist infection

 
Discharge Condition:
Stable

 
Discharge Instructions:
-You should continue with your IV antibiotics which will be 
overseen by Infectious Disease for approximately 6 weeks.  
-Elevate your forearm/wrist/hand as much as possible and 
maintain it in the cast you were discharged home in. 
-Please keep your right arm dry.
-Do not weight bear on your right wrist. 
- If your right wrist begins to worsen after discharge home with 
an acute increase in swelling or pain, please call Dr. ___ 
office to report this. 
.
Medications:  
* Resume your regular medications unless instructed otherwise.  
* You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging.  
* Take Colace, 100 mg by mouth 2 times per day, while taking the 
prescription pain medication to prevent constipation. You may 
use a different over-the-counter stool softener if you wish.  
* Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber. 
.
 
Followup Instructions:
___